US06080773
3-(1,2-Benzisoxazol -3-yl)-2-benzo[b]furancarboxaldehyde
3-(1,2-benzisoxazol-3-yl)-2-furancarboxaldehyde, starting from 2-(diethoxymethyl)-3-(2-fluorobenzoyl)-furan, melting at 191-192° C.

reactant | 3-(1,2-benzisoxazol-3-yl)-2-furancarboxaldehyde | O1N=C(C2=C1C=CC=C2)C2=C(OC=C2)C=O | C12H7NO3
reactant | 2-(diethoxymethyl)-3-(2-fluorobenzoyl)-furan | C(C)OC(C=1OC=CC1C(C1=C(C=CC=C1)F)=O)OCC | C16H17FO4
product | 3-(1,2-Benzisoxazol -3-yl)-2-benzo[b]furancarboxaldehyde | O1N=C(C2=C1C=CC=C2)C=2C1=C(OC2C=O)C=CC=C1 | C16H9NO3
